US09381196B2
To a solution of N1-cyclopropylbenzene-1,2-diamine (221 mg, 1.49 mmol) and triethylamine (0.3 mL, 2.2 mmol) in DMF was added a solution of methyl 8-chloro-8-oxooctanoate (260 mg, 1.3 mmol) in DMF at 0° C. drop-wise. The reaction was stirred overnight at room temperature, diluted with ethyl acetate and washed with 1 N HCl, saturated sodium bicarbonate solution and brine. The separated organic layer was concentrated to give crude methyl 8-(2-(cyclopropylamino)phenylamino)-8-oxooctanoate (390 mg)

reactant | N1-cyclopropylbenzene-1,2-diamine | 1.49 mmol, 221 mg | C1(CC1)NC=1C(=CC=CC1)N | C9H12N2
reactant | triethylamine | 2.2 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 8-chloro-8-oxooctanoate | 1.3 mmol, 260 mg | ClC(CCCCCCC(=O)OC)=O | C9H15ClO3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 8-(2-(cyclopropylamino)phenylamino)-8-oxooctanoate | 390 mg | C1(CC1)NC1=C(C=CC=C1)NC(CCCCCCC(=O)OC)=O | C18H26N2O3
